US07855297B2
By the reaction and treatment in the same manner as in Example 4 using 7-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.56 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.49 g) as starting materials, 7-benzyloxy-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.61 g) was obtained. melting point: 100-101° C.

reactant | 7-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.56 g | C(C1=CC=CC=C1)OC1=CC=C2CCCC(C2=C1)C(=O)O | C18H18O3
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.49 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | 7-benzyloxy-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.61 g | C(C1=CC=CC=C1)OC1=CC=C2CCCC(C2=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC | C33H37N3O2
